US08133907B2
(R)-2-Dibenzylamino-3-(2,5-difluoro-phenyl)-propionaldehyde
To a solution of (R)-2-Dibenzylamino-3-(2,5-difluoro-phenyl)-propan-1-ol (5.10 g, 13.9 mmol) in DMSO (1 mL) and Triethylamine (7.83 mL, 56.2 mmol) at −9° C. is added a solution of Sulfur Trioxide Pyridine Complex (4.43 g, 27.3 mmol) in DMSO (19.6 mL) over a period of 60 min, the reaction temperature is maintained below 4° C. The reaction is allowed to stir an additional 15 min at 0-3° C. after which the reaction is quenched by addition of water (50 mL) over a period of 60 min, the reaction temperature is maintained below 10° C. The product is extracted into MTBE, the organic phase is dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide the title compound.

reactant | (R)-2-Dibenzylamino-3-(2,5-difluoro-phenyl)-propan-1-ol | 13.9 mmol, 5.10 g | C(C1=CC=CC=C1)N([C@@H](CO)CC1=C(C=CC(=C1)F)F)CC1=CC=CC=C1 | C23H23F2NO
reactant | Triethylamine | 56.2 mmol, 7.83 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | DMSO | 19.6 mL | CS(=O)C | C2H6OS
product | (R)-2-Dibenzylamino-3-(2,5-difluoro-phenyl)-propionaldehyde | C(C1=CC=CC=C1)N([C@@H](C=O)CC1=C(C=CC(=C1)F)F)CC1=CC=CC=C1 | C23H21F2NO
